US07491735B2
Using general procedure A, methyl 4-aminobenzoate (380 mg, 2.51 mmol) and 1-Boc-4-piperidone (500 g, 2.51 mmol) afforded 4-(4-methoxycarbonyl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (643 mg, 77%).

reactant | methyl 4-aminobenzoate | 2.51 mmol, 380 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 1-Boc-4-piperidone | 2.51 mmol, 500 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | 4-(4-methoxycarbonyl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 643 mg, 77% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)C(=O)OC | C18H26N2O4
